US08440660B2
5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1)
5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 2-1, 424 mg, 0.888 mmol) was dissolved in 1,4-dioxane (5 mL), 4N HCl/1,4-dioxane solution (666 μL) was added thereto, and then the mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (150 mL). The mixture was washed with water (100 mL, twice) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (241.7 mg) as a colorless solid. (Yield 63%)

reactant | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-methoxymethoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)OCOC)OC)(C)C)C)C1)C | C29H32FNO4
reactant | HCl 1,4-dioxane | 4N, 666 μL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 241.7 mg, Yield 63% | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)O)OC)(C)C)C)C1)C | C27H28FNO3
